US06824893B2
Bis(2-quinolinyl)acetonitrile (14.3 g, 48.4 mmol) was dissolved in 70% H2SO4 in H2O (85 mL), and the resulting solution was heated at reflux for 1.5 h. The reaction mixture was poured into a 2-L beaker full of ice and was neutralized very carefully with a NaOH solution. The aqueous solution was extracted with a mixture of ether and THF, and the organic layer was isolated and dried over MgSO4. The volatile components were removed, and the resulting solid was washed with a solution of heptane and ether to afford 11.7 g (89.5%) of bis(2-quinolinyl)methane as a reddish powder. Results of 1H NMR spectroscopy and electrospray mass spectroscopy are consistent with the product. 1H NMR (300 MHz, CDCl3): δ 4.74 (s, 2H), 7.42 (d, J=8.5 Hz, 2H), m, 2H), 7.51 (m, 2H), 7.72 (m, 2H), 7.77 (d, J=8.2 Hz, 2H), 8.04 (d, J=8.5 Hz, 2H), 8.11 (d, J=8.5 Hz, 2H).

reactant | Bis(2-quinolinyl)acetonitrile | 48.4 mmol, 14.3 g | N1=C(C=CC2=CC=CC=C12)C(C#N)C1=NC2=CC=CC=C2C=C1 | C20H13N3
reactant | NaOH | [OH-].[Na+]
solvent | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | H2O | 85 mL | O | H2O
product | bis(2-quinolinyl)methane | 11.7 g, 89.5% | N1=C(C=CC2=CC=CC=C12)CC1=NC2=CC=CC=C2C=C1 | C19H14N2
